### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry/Morphisms): affine + ring hom property

### PR DESCRIPTION
**Pull request by chrisflav**
We add a constructor for properties of affine morphisms of schemes satisfying a given property of ring homomorphisms on sections.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Morphisms/AffineAnd.lean [hunk 1]
```diff
@@ -0,0 +1,184 @@
...
+    exact ⟨U.2, hQ _⟩
+
+/-- A convenience constructor for `HasAffineProperty P (affineAnd Q)`. The `IsAffineHom` is bundled,
+since this goes well with defining morphism properties via `extends IsAffineHom`. -/
+lemma HasAffineProperty.affineAnd_iff (P : MorphismProperty Scheme.{u})
+    (hQi : RingHom.RespectsIso Q) (hQl : RingHom.LocalizationPreserves Q)
+    (hQs : RingHom.OfLocalizationSpan Q) :
+    HasAffineProperty P (affineAnd Q) ↔
+      ∀ {X Y : Scheme.{u}} (f : X ⟶ Y), P f ↔
+        (IsAffineHom f ∧ ∀ (U : Y.affineOpens), Q (f.app U)) := by
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/AffineAnd.lean:164]: I don't think we should state things in terms of `forall U : X.affineOpens`.

File: Mathlib/AlgebraicGeometry/Morphisms/AffineAnd.lean [hunk 2]
```diff
@@ -0,0 +1,184 @@
...
+    obtain ⟨hY, hg⟩ := hg
+    rw [HasAffineProperty.iff_of_isAffine (P := P) (Q := (affineAnd Q))] at hf
+    obtain ⟨hX, hf⟩ := hf
+    rw [HasAffineProperty.iff_of_isAffine (P := P) (Q := (affineAnd Q))]
+    exact ⟨hX, hQ _ _ hg hf⟩
+
+/-- If `P` is a morphism property affine locally defined by `affineAnd Q`, `P` is stable under
+base change if `Q` is. -/
+lemma HasAffineProperty.affineAnd_stableUnderBaseChange {P : MorphismProperty Scheme.{u}}
+    [HasAffineProperty P (affineAnd Q)] (hQi : RingHom.RespectsIso Q)
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/AffineAnd.lean:140]: I think this HasAffineProperty should not be an instance argument and a regular argument instead since we will not have these instances lying around.

File: Mathlib/AlgebraicGeometry/Morphisms/AffineAnd.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Morphisms/AffineAnd.lean:164]: Hmm, I think I can see why, but we do it in many places, e.g. everything around `HasRingHomProperty` is expressed like that (probably because of [AlgebraicGeometry.affineLocally_iff_affineOpens_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/AlgebraicGeometry/Morphisms/RingHomProperties.html#AlgebraicGeometry.affineLocally_iff_affineOpens_le)). I don't care which way we do it, but we should do it consistently.

File: Mathlib/RingTheory/LocalProperties/Basic.lean [hunk 3]
```diff
@@ -248,6 +248,29 @@ theorem RingHom.PropertyIsLocal.ofLocalizationSpan (hP : RingHom.PropertyIsLocal
   · apply hP.StableUnderCompositionWithLocalizationAway.right _ r
     exact hs' ⟨r, hr⟩
 
+lemma RingHom.OfLocalizationSpan.ofIsLocalization
+    (hP : RingHom.OfLocalizationSpan P) (hPi : RingHom.RespectsIso P)
+    {R S : Type u} [CommRing R] [CommRing S] (f : R →+* S) (s : Set R) (hs : Ideal.span s = ⊤)
+    (hT : ∀ r : s, ∃ (Rᵣ Sᵣ : Type u) (_ : CommRing Rᵣ) (_ : CommRing Sᵣ)
+      (_ : Algebra R Rᵣ) (_ : Algebra S Sᵣ) (_ : IsLocalization.Away r.val Rᵣ)
+      (_ : IsLocalization.Away (f r.val) Sᵣ),
+        P (IsLocalization.Away.map Rᵣ Sᵣ f r)) : P f := by
```
[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/RingTheory/LocalProperties/Basic.lean]: I added your version, because I can imagine it being helpful, but I did not figure out a quick way to make use of it in the application here.

File: Mathlib/AlgebraicGeometry/Morphisms/AffineAnd.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Morphisms/AffineAnd.lean]: Okay aligned now with the def of `IsAffineHom`.

**Review by erdOne — APPROVED** [review]
Thanks a lot for doing this!
maintainer merge
